US08871767B2
N-(5-(3-chloro-6-methoxyimidazo[1,2-b]pyridazin-2-yl)-2-methylphenyl)pivalamide
A stirred solution of 5-(3-chloro-6-methoxyimidazo[1,2-b]pyridazin-2-yl)-2-methylaniline (0.025 g, 0.0867 mmol) in acetonitrile (1 mL) containing pyridine (0.261 mmol) is added trimethylacetylchloride (0.0867 mmol). The mixture is stirred at room temperature for 4 hours, then concentrated to dryness and purified via chromatography (hexanes to EtOAc) to afford the title compound (0.030 g, 93%) as a white solid: LCMS (m/z)=373.4, 375.3 [M+H]+, tR=2.74 min. (compound same as Example 109)

reactant | 5-(3-chloro-6-methoxyimidazo[1,2-b]pyridazin-2-yl)-2-methylaniline | 0.0867 mmol, 0.025 g | ClC1=C(N=C2N1N=C(C=C2)OC)C=2C=CC(=C(N)C2)C | C14H13ClN4O
reactant | pyridine | 0.261 mmol | N1=CC=CC=C1 | C5H5N
reactant | trimethylacetylchloride | 0.0867 mmol | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | N-(5-(3-chloro-6-methoxyimidazo[1,2-b]pyridazin-2-yl)-2-methylphenyl)pivalamide | 0.030 g, 93% | ClC1=C(N=C2N1N=C(C=C2)OC)C=2C=CC(=C(C2)NC(C(C)(C)C)=O)C | C19H21ClN4O2
